US07855194B2
(6,7-Dimethoxy-4-morpholin-4-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(6,7-dimethoxy-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.45 g, 5.18 mmol) in ethanol (10 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 374.3 [M+H]+.

reactant | 4-(6,7-dimethoxy-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.18 mmol, 2.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)OC)OC | C24H35N5O5
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (6,7-Dimethoxy-4-morpholin-4-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.COC=1C=C2C(=NC(=NC2=CC1OC)NC1CCNCC1)N1CCOCC1 | InChI=1S/C19H27N5O3.2ClH/c1-25-16-11-14-15(12-17(16)26-2)22-19(21-13-3-5-20-6-4-13)23-18(14)24-7-9-27-10-8-24;;/h11-13,20H,3-10H2,1-2H3,(H,21,22,23);2*1H
